US07157447B2
Benzyl hydrogen 2-((3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamido)methyl)-5-fluorophenylphosphonate.
A solution of N-(4-fluoro-2-iodobenzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide (0.200 g, 0.35 mmol) in dimethyl sulfoxide (5 ml) was flushed with argon and then treated triethylamine (0.25 ml, 1.8 mmol), tetrakis(triphenylphosphine)palladium(0) (0.10 g) and dibenzyl phosphite (0.25 ml, 1.06 mmol). The reaction mixture was then sealed and heated at 80° C. for 16 h. The reaction mixture was then diluted with ethyl acetate, washed with 0.1 N hydrochloric acid, brine, dried over anhydrous magnesium sulfate and concentrated. Purification of the residue by preparative HPLC (column YMC Pack C-18, 5μ, 20×250 mm, elution gradient acetonitrile-water 0.1% trifluoroacetic acid) gave 0.150 g (60% yield) of the title material as a white solid; mp 142° C. 1HNMR 400 MHz (CDCl3) δ (ppm): 1.58 (6H, s, 2×CH3), 4.0 (4H, m, 2×CH2), 4.73 (2H, broad s, OCH2), 5.05 (2H, d, J=8.6 Hz, NCH2), 5.28 (2H, s, OCH2), 7.20 (1H, m, aromatic), 7.29–7.34 (6H, m, aromatics), 7.45–7.64 (6H, m, aromatics), 8.24 (1H, broad, NH). MS (ESI+) m/z 608 [M+H+].

reactant | N-(4-fluoro-2-iodobenzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide | 0.35 mmol, 0.200 g | FC1=CC(=C(CNC(=O)C=2N=C3C(OCCN3C(C2OCC2=CC=CC=C2)=O)(C)C)C=C1)I | C24H23FIN3O4
reactant | triethylamine | 1.8 mmol, 0.25 ml | C(C)N(CC)CC | C6H15N
reactant | dibenzyl phosphite | 1.06 mmol, 0.25 ml | P(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)[O-]
solvent | dimethyl sulfoxide | 5 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.10 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Benzyl hydrogen 2-((3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamido)methyl)-5-fluorophenylphosphonate | 0.150 g, 60% yield | C(C1=CC=CC=C1)OC1=C(N=C2C(OCCN2C1=O)(C)C)C(=O)NCC1=C(C=C(C=C1)F)P(OCC1=CC=CC=C1)(O)=O | C31H31FN3O7P
